US06730681B2
A solution of 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline (0.10 g, 0.23 mmol), triethylamine (0.10 ml, 0.7 mmol) and morpholine (0.025 g, 0.25 mmol) in dry N,N-dimethylformamide (2 ml) was stirred at 50° C. under nitrogen for 18 h. The mixture was cooled, then diluted with water (10 ml) and 10% methanol:dichloromethane (5 ml). The two phases were separated by filtration through a PTFE membrane and the organic layer was concentrated. Trituration and washing with ethyl acetate-diethyl ether gave 3-(2-fluorophenyl)-5-(morpholin-4-yl)-[1,2,3]triazolo[1,5-α]quinazoline (0.065 g, 81%). δH (360 MHz; DMSO) 3.61 (4H, dd, J=5 and 5), 3.86 (4H, dd, J=5 and 5), 7.34-7.39 (2H, m), 7.42-7.50 (1H, m), 7.77 (1H, dd, J=7 and 7), 8.04-8.10 (2H, m), 8.22 (1H, d, J=8), 8.59 (1H, d, J=8); m/z (ES+) 350 (M+H+).

reactant | 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline | 0.23 mmol, 0.10 g | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)OS(=O)(=O)C2=CC=C(C=C2)C | C22H15FN4O3S
reactant | triethylamine | 0.7 mmol, 0.10 ml | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.25 mmol, 0.025 g | N1CCOCC1 | C4H9NO
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | methanol | CO | CH4O
product | 3-(2-fluorophenyl)-5-(morpholin-4-yl)-[1,2,3]triazolo[1,5-α]quinazoline | 0.065 g, 81% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)N2CCOCC2 | C19H16FN5O
